US06770642B2
Preparation of {2-[1-(6-Chloroimidazo[2,1-b]thiazole-5-sulfonyl)-1H-indol-3-yl]ethyl}methyl amine
A solution of 3-(2-bromoethyl)-1-(6-chloroimidazo[2,1-b]thiazole-5-sulfonyl)indole (92 mg, 0.20 mmol) in THF is treated with methyl amine (2M in methanol, 0.4 mL, 2 eq.), heated at 50° C. for 24 h, cooled and concentrated in vacuo. The resultant residue is purified by HPLC1 to give the title product as a white solid, 18.5 mg, identified by HPLC2 and mass spectral analyses.

reactant | 3-(2-bromoethyl)-1-(6-chloroimidazo[2,1-b]thiazole-5-sulfonyl)indole | 0.20 mmol, 92 mg | BrCCC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=C(N=C2SC=CN21)Cl | C15H11BrClN3O2S2
reactant | methyl amine | 2M, 0.4 mL, 2 eq. | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | {2-[1-(6-Chloroimidazo[2,1-b]thiazole-5-sulfonyl)-1H-indol-3-yl]ethyl}methyl amine | ClC=1N=C2SC=CN2C1S(=O)(=O)N1C=C(C2=CC=CC=C12)CCNC | C16H15ClN4O2S2
